US04517202
A mixture of 6-[(E)-3-cyclohexyl-3-hydroxyprop-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (12.7 mg), prepared as described in Example 1 and in the form of (±)-6β-[(E)-3-cyclohexyl-3α-hydroxyprop-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)methyl(5E,13E)-(9S,15S)-6a-oxo-6,9-methano-15-cyclohexyl-15-hydroxy-16,17,18,19,20-pentanorprosta-5,13-dienoate, lithium hydroxide (21.5 mg), methanol (2 ml), and water (0.7 ml) was left to stand at the ambient temperature for 1 hour. The mixture was then diluted with water (5 ml) and washed with dichloromethane. The aqueous layer was separated and acidified to pH 3 by treatment with aqueous hydrochloric acid (2N). The acidic solution was extracted with dichloromethane, and this extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under reduced pressure, to give 3-[(E)-4-carboxybutylidene]-6-[ (E)-3-cyclohexyl-3-hydroxyprop-1-enyl]bicyclo[3,3,0]octan-2-one (6.6 mg), in the form of (±)-3-[(E)-4-carboxybutylidene]-6β-[(E)-3-cyclohexyl-3α-hydroxyprop-1-enyl]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-(5E,13E)-(9S,15S)-6a-oxo-6,9-methano-15-cyclohexyl-15-hydroxy-16,17,18,19,20-pentanorprosta-5,13-dienoic acid.

reactant | 6-[(E)-3-cyclohexyl-3-hydroxyprop-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 12.7 mg | C1(CCCCC1)C(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)O | C23H34O4
reactant | lithium hydroxide | 21.5 mg | [OH-].[Li+]
reactant | methanol | 2 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | water | 0.7 ml | O | H2O
product | 3-[(E)-4-carboxybutylidene]-6-[ (E)-3-cyclohexyl-3-hydroxyprop-1-enyl]bicyclo[3,3,0]octan-2-one | 6.6 mg | C(=O)(O)CCC\C=C/1\C(C2CCC(C2C1)\C=C\C(O)C1CCCCC1)=O | C22H32O4
